US07795267B2
1,1-Bis(3-fluorophenyl)-N-[2-[cyclopropyl[(2-nitrophenyl)sulfonyl]amino]ethyl]-tetrahydro-3-oxo-3H-oxazolo[3,4-a]pyrazine-7(1H)-carboxamide
To a solution of N-(2-aminoethyl)-N-cyclopropyl-2-nitrobenzenesulfonamide (0.51 g, 1.8 mmol) and diisopropylethylamine (0.80 mL, 4.5 mmol) in tetrahydrofuran (20 mL) was added 4-nitrophenyl chloroformate (0.36 g, 1.8 mmol) with ice cooling, and the mixture was stirred at room temperature for 1 hour. 1,1-Bis(3-fluorophenyl)-hexahydro-3H-oxazolo[3,4-a]pyrazin-3-one (0.50 g, 1.5 mmol) was added thereto, and the mixture was stirred at room temperature overnight. To the reaction solution was added ethyl acetate, and the resulting mixture was sequentially washed with 1 N hydrochloric acid and a 1 N aqueous sodium hydroxide solution and water, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue was purified with silica gel column chromatography (hexane:ethyl acetate=49:1 to ethyl acetate), and then crystallized from ethyl acetate-diethyl ether to obtain the title compound (0.24 g, yield 25%).

reactant | N-(2-aminoethyl)-N-cyclopropyl-2-nitrobenzenesulfonamide | 1.8 mmol, 0.51 g | NCCN(S(=O)(=O)C1=C(C=CC=C1)[N+](=O)[O-])C1CC1 | C11H15N3O4S
reactant | diisopropylethylamine | 4.5 mmol, 0.80 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 4-nitrophenyl chloroformate | 1.8 mmol, 0.36 g | ClC(=O)OC1=CC=C(C=C1)[N+](=O)[O-] | C7H4ClNO4
reactant | 1,1-Bis(3-fluorophenyl)-hexahydro-3H-oxazolo[3,4-a]pyrazin-3-one | 1.5 mmol, 0.50 g | FC=1C=C(C=CC1)C1(OC(N2C1CNCC2)=O)C2=CC(=CC=C2)F | C18H16F2N2O2
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1,1-Bis(3-fluorophenyl)-N-[2-[cyclopropyl[(2-nitrophenyl)sulfonyl]amino]ethyl]-tetrahydro-3-oxo-3H-oxazolo[3,4-a]pyrazine-7(1H)-carboxamide | 0.24 g, yield 25% | FC=1C=C(C=CC1)C1(OC(N2C1CN(CC2)C(=O)NCCN(S(=O)(=O)C2=C(C=CC=C2)[N+](=O)[O-])C2CC2)=O)C2=CC(=CC=C2)F | C30H29F2N5O7S
